US05863463
1-Chlorobenzotriazole:
The Performance of Tolytriazole in the Presence of Sodium Hypochlorite Under Simulated Field Conditions, NACE Corrosion/83, Paper No.283, (1983).

reactant | Tolytriazole | CC1=CC=CC2=NNN=C12 | C7H7N3
reactant | Sodium Hypochlorite | Cl[O-].[Na+]
product | 1-Chlorobenzotriazole | ClN1N=NC2=C1C=CC=C2 | C6H4ClN3
